Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
left-sided numbness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ Stroke Scale score was : 1 1a. Level of Consciousness: 0 1b. 
LOC Question: 0 1c. LOC Commands: 0 2. Best gaze: 0 3. Visual 
fields: 0 4. Facial palsy: 0 5a. Motor arm, left: 0 5b. Motor 
arm, right: 0 6a. Motor leg, left: 0 6b. Motor leg, right: 0 7. 
Limb Ataxia: 0 8. Sensory: 1 9. Language: 0 10. Dysarthria: 0 
11. Extinction and Neglect: 0 REASON FOR CONSULTATION: Code 
stroke/or stroke HPI: Ms. ___ is a ___ year old woman with 
history of right parietal anaplastic astrocytoma s/p resection 
(___) followed by radiation and chemotherapy (completed ___ 
in remission by repeat imaging, HLD, hypothyroidism who presents 
with left sided sensory changes. History provided by patient and 
collateral from husband, who is an excellent historian.

Ms. ___ was last known well at 6:30am this morning. Prior to 
that she had woken up at 5 AM and felt well, moved around a 
little bit and then went to bed again at 6:30 AM. When she awoke 
at 9:00 AM, she felt generally unwell but had difficulty 
pinpointing why. She then tried to get out of bed and noticed 
that when she moved her left leg, the entire leg felt numb and 
heavy, circumferentially. She denies any weakness of the leg. 
Around the same time, she noticed that her left arm also felt 
numb and heavy, but to a lesser degree than the leg. She did 
have some numbness of the face on the left side as well, but she 
has had this intermittently chronically since treatment of her 
tumor. Torso is spared.

She notes that when walking around the house, she frequently 
bumped into objects around the house, and at one point slammed 
the left leg into the garage door when entering the house. When 
she went out to get the mail, she felt the left leg give out and 
began to fall forward. She is not sure whether this is related 
to sensory loss, weakness, or difficulty using the leg in 
general. Throughout this whole time, she denied any new visual 
changes, denied difficulty understanding or expressing speech, 
denies dysarthria, denies focal weakness or numbness.

Notably, patient underwent routine colonoscopy yesterday. Prior 
to that, her home aspirin 81 mg daily was held for the last 
week. Otherwise, prior to her acute change this morning, patient 
reports she has been in her usual state of health recently. She 
did have low back pain for the last week without bowel or 
bladder symptoms. She denies any recent trauma, new or missed 
medications, or recent illnesses.

Regarding her oncologic history, this began in ___ when she 
developed headache in the vertex suddenly. Her husband found her 
home confused and incontinent. She was found to have a large 5 x 
6 cm right parietal mass with some enhancement. Ultimately 
underwent pathology which revealed a grade 3 oligo astrocytoma. 
She underwent resection and ___ by neurosurgery. She 
then underwent radiation and chemotherapy between ___ and ___. 
Since then, the tumor has been followed with serial exams which 
has been stable. As a result of her tumor, she has a baseline 
left inferior quadrantanopsia.

Husband notes that in ___, she developed transient sensory 
symptoms- bilateral facial numbness and tingling in both hands. 
This lasted about one hour. She was worked up at ___ 
___. Cardiac workup was negative. She was diagnosed with a 
possible TIA and started on aspirin.
 
Past Medical History:
-right parietal anaplastic astrocytoma s/p resection (___)
followed by radiation and chemotherapy (completed ___ in
remission by repeat imaging
-ADHD
-Hyperlipidemia
-Depression
-Hypothyroidism
 
Social History:
___
Family History:
Denies family history of early stroke or premature CAD

 
Physical Exam:
ADMISSION
Vitals: Temperature 98.5, heart rate 72, blood pressure 133/77,
respiratory rate 18, oxygen percent on room air

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades.  Baseline left inferior
quadrantanopsia. 
V: Facial sensation reduced to pinprick in V1 to V3 distribution
to 70% of normal.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___    5    5    5      5
R  5    ___    ___    5    5    5      5 

-Sensory: Reduced to pinprick in the left arm and leg,
circumferentially, ranging from 50-70% of normal.  There is also
reduced proprioception to small amplitude movements of the index
finger and great toe on the left.  No graphesthesia.  No
extinction to DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was extensor on the left, flexor on right

-Coordination: Mild left upper extremity dysmetria with
finger-nose-finger. No ataxia on HKS bilaterally.  No truncal
ataxia.

-Gait: Good initiation.  Mildly unsteady, which is baseline per
husband, but gait is narrow-based, normal stride and arm swing. 
Able to walk in tandem without difficulty. 
===============
DISCHARGE
Notable for persistent mild left-sided neglect and left inferior 
quadrantanopia. No sensory deficits.
 
Pertinent Results:
___ 05:10AM BLOOD WBC-5.1 RBC-3.86* Hgb-12.2 Hct-37.0 
MCV-96 MCH-31.6 MCHC-33.0 RDW-12.4 RDWSD-43.4 Plt ___
___ 05:10AM BLOOD Neuts-62.1 ___ Monos-9.4 Eos-2.7 
Baso-0.6 Im ___ AbsNeut-3.19 AbsLymp-1.28 AbsMono-0.48 
AbsEos-0.14 AbsBaso-0.03
___ 05:10AM BLOOD ___ PTT-32.2 ___
___ 05:10AM BLOOD Glucose-88 UreaN-15 Creat-0.9 Na-142 
K-3.9 Cl-104 HCO3-25 AnGap-13
___ 05:10AM BLOOD ALT-21 AST-19 LD(LDH)-165 AlkPhos-67 
TotBili-0.3
___ 05:10AM BLOOD Albumin-4.4 Calcium-8.7 Phos-5.4* Mg-2.1
___ 12:38PM BLOOD %HbA1c-5.3 eAG-105
___ 12:30PM BLOOD Triglyc-95 HDL-68 CHOL/HD-2.2 LDLcalc-65

IMAGING
CTA HEAD/NECK
IMPRESSION: 1. No acute abnormalities on a noncontrast head CT. 
2. Status post right temporoparietal craniotomy and tumor 
resection with similar posttreatment changes. 3. Mild 
atherosclerosis, but otherwise normal CTA of the head and neck 
without evidence of high-grade stenosis or large vessel 
occlusion. No internal carotid artery stenosis by NASCET 
criteria. 

MRI BRAIN 
IMPRESSION:    
Unchanged MRI appearance of the brain. Persistent enhancement at 
the surgical margin with no findings to suggest tumor 
progression. 

TTE
CONCLUSION: The left atrial volume index is normal. There is 
premature appearance of a large (>30 microbubbles) of agitated 
saline in the left heart at rest c/w a small atrial septal 
defect or stretched patent foramen ovale. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative biplane left ventricular 
ejection fraction is 60 %. Left ventricular cardiac index is 
normal (>2.5 L/min/m2). There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. Tricuspid annular plane systolic 
excursion (TAPSE) is normal. The aortic sinus diameter is normal 
for gender with normal ascending aorta diameter for gender. The 
aortic arch diameter is normal with a normal descending aorta 
diameter. There is no evidence for an aortic arch coarctation. 
The aortic valve leaflets (3) appear structurally normal. No 
masses or vegetations are seen on the aortic valve. There is no 
aortic valve stenosis. There is a centrally directed jet of 
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral valve. There is trivial 
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally normal. No 
mass/vegetation are seen on the tricuspid valve. There is 
physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is high normal. There is no pericardial 
effusion. 
IMPRESSION: Small atrial septal defect/stretched patent foramen 
ovale with a large number of microbubbles in the left heart at 
rest. Mild symmetric left ventricular hypertrophy with normal 
cavity size and regional/global biventricular systolic function.

 
Brief Hospital Course:
___ with PMH right parietal oligo-astrocytoma s/p resection and 
chemotherapy and radiation in ___ presents with worsening 
left-sided numbness.

#Left sided numbness
Present at baseline, has had one similar episode previously in 
___ concerning for TIA and was started on ASA and atorvastatin 
for secondary prevention. Work-up was done at ___, and holtor 
monitor was placed for 30 days, but they never got a report. Due 
to the transient nature of this episode, TIA is possible, but 
other differentials include seizure or meningeal irritation in 
the setting of symptoms plus headache. EEG and AED not 
considered at this time as this is only the second episode over 
a span of ___ years. Will repeat holter monitoring and TTE 
outpatient. Continue ASA and atorvastatin. Follow-up with Dr. 
___. After discharge, TTE results were communicated and she was 
found to have a PFO with microbubbles seen in the LA at rest 
concerning for right to left shunt. These results were 
communicated with the patient, her husband, and PCP ___ ___ 
at 1415. She will need lower extremity dopplers and a cardiology 
consultation outpatient.
The significance of this finding is not entirely clear. There 
will need to be a complete workup, including Ziopatch and 
possibly a TEE to further characterize. Given that the nature of 
this event as TIA is not clear and full stroke workup has not 
been completed, there is no clear/stroke indication for closure 
urgently. 

#Right parietal oligo-astrocytoma s/p resection ___
Also received chemotherapy and radiation. Residual deficits of 
left-sided numbness, neglect, left inferior quadrantanopia. 
Follows with Dr. ___ and has yearly scans which have 
been stable

#Hypothyroidism
Continued on home levothyroxine

#ADHD
Continued on home methylphenidate

#Depression
Continued on home venlafaxine

==================
Transitional Issues:
-New dx of PFO, with concern for right->left shunt. Will need 
lower extremity dopplers and cardiology follow-up.
-Follow-up results of ziopatch with either PCP or Dr. ___

==================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =65 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MethylPHENIDATE (Ritalin) 20 mg PO BID 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Atorvastatin 40 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Venlafaxine 150 mg PO DAILY 
7. calcium citrate (bulk) 100 % miscellaneous DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO DAILY  
3.  calcium citrate (bulk) 100 % miscellaneous DAILY  
4.  Ferrous Sulfate 325 mg PO DAILY  
5.  Levothyroxine Sodium 125 mcg PO DAILY  
6.  MethylPHENIDATE (Ritalin) 20 mg PO BID  
7.  Venlafaxine 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
TIA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for feelings of left sided 
numbness that improved during your hospital stay. This may 
represent a transient ischemic attack (TIA), similar to what you 
experienced in ___. Therefore, we recommend you continue on 
your aspirin and atorvastatin for secondary stroke/TIA 
prevention. You will wear a patch that monitors your heart rate 
for 30 days to look for any irregular heart rhythms as a 
potential cause for this event. We have also ordered for you to 
get an ECHO, or imaging of your heart. You will follow-up with 
Dr. ___.

Thank you for allowing us to participate in your care.

Sincerely,

___ Neurology
 
Followup Instructions:
___